US06432955B1
91d. (2-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidine-1-yl}-2-oxo-1-(R)-phenyl-ethyl)-carbamic acid isopropyl ester hydroacetate
A mixture of 1-[(R)-isopropoxycarbonylamino-phenyl-acetyl]-pyrrolidine-2-(S)-carboxylic acid (0.20 g), 6-aminomethyl-isoquinolin-1-ylamine (0.6 mmol), N-methyl morpholine (0.2 mL) and 0.19 g of 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU) in 3 mL of dry N,N-dimethyl formamide was stirred for 3 h at ambient temperature. 0.120 mL CH3COOH were added, the mixture was concentrated and the remaining residue was purified by HPLC (RP-18; H2O/CH3OH 95/5→0/100) to give 0.10 g (35%) of the title compound as a colorless oil. (+)-APCI-MS: 490 (MH+).

reactant | 1-[(R)-isopropoxycarbonylamino-phenyl-acetyl]-pyrrolidine-2-(S)-carboxylic acid | 0.20 g | C(C)(C)OC(=O)N[C@@H](C(=O)N1[C@@H](CCC1)C(=O)O)C1=CC=CC=C1 | C17H22N2O5
reactant | 6-aminomethyl-isoquinolin-1-ylamine | 0.6 mmol | NCC=1C=C2C=CN=C(C2=CC1)N | C10H11N3
reactant | N-methyl morpholine | 0.2 mL | CN1CCOCC1 | C5H11NO
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.19 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethyl formamide | 3 mL | CN(C=O)C | C3H7NO
solvent | CH3COOH | 0.120 mL | CC(=O)O | C2H4O2
product | (2-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidine-1-yl}-2-oxo-1-(R)-phenyl-ethyl)-carbamic acid isopropyl ester | 0.10 g, 35% | C(C)(C)OC(N[C@@H](C(=O)N1[C@@H](CCC1)C(NCC=1C=C2C=CN=C(C2=CC1)N)=O)C1=CC=CC=C1)=O | C27H31N5O4
